US07109219B2
6-(1H-Indol-6-yloxy)pyrimidin-4-ylamine
Sodium hydride (200 mg, 5.00 mmol) was suspended in dimethyl sulfoxide (8 ml); while stirring at room temperature, 6-hydroxyindole (666 mg, 5.00 mmol) and 6-amino-4-chloropyrimidine (518 mg, 4.00 mmol) were added thereto one by one; and the reaction mixture was stirred at 60° C. for 2 hours, at 80° C. for 1 hour, and at 100° C. for 1.5 hours. After cooled down to room temperature, the reaction mixture was partitioned between ethyl acetate and water; and the organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (Fuji Silysia BW-300, hexane:ethyl acetate=1:1, ethyl acetate, then ethyl acetate:methanol=98:2); the obtained crystals were suspended in ethyl acetate (50 ml) and stirred at room temperature overnight, filtered off, washed with diethyl ether, and dried to yield the title compound (322 mg, 1.42 mmol, 35.6%) as pale yellow crystals.

reactant | Sodium hydride | 5.00 mmol, 200 mg | [H-].[Na+]
reactant | 6-hydroxyindole | 5.00 mmol, 666 mg | OC1=CC=C2C=CNC2=C1 | C8H7NO
reactant | 6-amino-4-chloropyrimidine | 4.00 mmol, 518 mg | NC1=CC(=NC=N1)Cl | C4H4ClN3
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
product | 6-(1H-Indol-6-yloxy)pyrimidin-4-ylamine | 1.42 mmol, 322 mg, 35.6% | N1C=CC2=CC=C(C=C12)OC1=CC(=NC=N1)N | C12H10N4O
